US06933311B2
isoquinoline-1,3(2H,4H)-dione
2-(Carboxymethyl)benzoic acid (10 g, 55.6 mmol) was dissolved in concentrated NH4OH (15 mL) and then was evaporated to dryness under reduced pressure. The process was repeated with additional NH4OH (5 mL). The resulting residue was treated with 1,2-dichlorobenzene (20 mL) and heated with stirring at 200° C. without a condenser allowing the solvent to evaporate. The concentrated mixture was allowed to cool to room temperature, diluted with methanol (20 mL), and allowed to stand overnight. The precipitate was collected by filtration, washed with methanol, and dried under reduced pressure to provide the title compound as tan needles (6.6 g, 74%).

reactant | 2-(Carboxymethyl)benzoic acid | 55.6 mmol, 10 g | C(=O)(O)CC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | NH4OH | 15 mL | [NH4+].[OH-]
product | isoquinoline-1,3(2H,4H)-dione | 6.6 g, 74% | C1(NC(CC2=CC=CC=C12)=O)=O | C9H7NO2
